US06462068B1
3-(5-Aminomethylfuran-2-yl)-1-benzyl-indazole
121.5 mg of 3-(5-azidomethylfuran-2-yl)-1-benzyl-indazole (0,369 mmol) and 102 mg of triphenylphosphine (0.389 mmol) were stirred in 1 ml of THF for 3.5 hours. 10 μl of water were then added. After 24 hours, ether and aqueous HCl, 0.3M, were added to the reaction mixture. The solid which had been filtered off and the aqueous phase were combined, rendered alkaline with NaOH, 2M, and extracted with ether. The organic phase was washed with a little water and then with a sodium chloride solution, dried over sodium sulphate and concentrated. 79.9 mg of a yellow oil were obtained.

reactant | 3-(5-azidomethylfuran-2-yl)-1-benzyl-indazole | 0,369 mmol, 121.5 mg | N(=[N+]=[N-])CC1=CC=C(O1)C1=NN(C2=CC=CC=C12)CC1=CC=CC=C1 | C19H15N5O
reactant | triphenylphosphine | 0.389 mmol, 102 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 10 μl | O | H2O
reactant | HCl | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-(5-Aminomethylfuran-2-yl)-1-benzyl-indazole | 79.9 mg | NCC1=CC=C(O1)C1=NN(C2=CC=CC=C12)CC1=CC=CC=C1 | C19H17N3O
